### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): truncated simplicial notations

### PR DESCRIPTION
**Pull request by gio256**
We provide macros for the following notations:
- `⦋m⦌ₙ` denotes the `m`-dimensional simplex in the `n`-truncated simplex category.
- `X _⦋m⦌ₙ` denotes the `m`-th term of an `n`-truncated simplicial object `X`.
- `X ^⦋m⦌ₙ` denotes the `m`-th term of an `n`-truncated cosimplicial object `X`.

For all of these notations, the truncation proof `p : m ≤ n` can also be provided using the syntax `⦋m, p⦌ₙ`, `X _⦋m, p⦌ₙ`, and `X ^⦋m, p⦌ₙ`, respectively.

These notations generalize those already in use in `HomotopyCat.lean` and `Coskeletal.lean`.

Delaborators for these notations are added in #20719.

See #17732 and #20355 to understand the reason for the use of `subscriptTerm`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 1]
```diff
@@ -55,7 +63,7 @@ def mk (n : ℕ) : SimplexCategory :=
   n
 
 /-- the `n`-dimensional simplex can be denoted `[n]` -/
-scoped[Simplicial] notation "[" n "]" => SimplexCategory.mk n
+scoped[Simplicial] notation (priority := high) "[" n "]" => SimplexCategory.mk n
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:66]: This change would also allow removing many of the `([n] : SimplexCategory)` type annotations in this file and elsewhere (though maybe this suggests there is a reason it hasn't been done before).

I can open a separate PR removing obsolete type annotations.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:66]: I have little understanding of the detailed syntax of notations and of meta code, but `[...]` may conflict with list notations. However, as a scoped `Simplicial` notation, we can certainly increase the priority.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:66]: Unfortunately `scoped[Simplicial] syntax` is not possible (unless #18230 is merged), so currently `open SimplexCategory.Truncated` brings the `[m]ₙ` notation into scope. Do you think this notation also being given `(priority := high)` could cause any problems?

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 2]
```diff
@@ -743,6 +751,30 @@ noncomputable def inclusion.fullyFaithful (n : ℕ) :
 theorem Hom.ext {n} {a b : Truncated n} (f g : a ⟶ b) :
     f.toOrderHom = g.toOrderHom → f = g := SimplexCategory.Hom.ext _ _
 
+/-- Some quick and useful attempts to prove `m ≤ n`. -/
+macro "leq_tac" : tactic =>
+  `(tactic| first | decide | assumption | apply zero_le | apply le_rfl |
+    apply Nat.le_add_left | apply Nat.le_add_right |
+    apply Nat.le_add_right_of_le; assumption |
+    apply Nat.add_le_add_right; assumption | transitivity <;> assumption)
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:759]: How expensive is `omega`? Is this the right balance of things to try before delegating to `omega`?

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:66]: hopefully #18230 is compiling soon :)

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 3]
```diff
@@ -30,6 +31,13 @@ We provide the following functions to work with these objects:
 4. `SimplexCategory.Hom.toOrderHom` gives the underlying monotone map associated to a
   term of `SimplexCategory.Hom`.
 
+## Notations
+
+* `[n]` denotes the `n`-dimensional simplex. This notation is available with
+  `open Simplicial`.
+* `[m]ₙ` denotes the `m`-dimensional simplex in the `n`-truncated simplex category.
+  The truncation proof `p : m ≤ n` can also be provided using the syntax `[m, p]ₙ`.
+  This notation is available with `open SimplexCategory.Truncated`.
```
Comment (kim-em) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: I remain opposed to introducing any notations that conflict with `List` notation. This is not on any technical grounds, but simply that they *reduce readability* relative to no notation.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: @kim-em to be sure I understand, could you please clarify which of the following you are suggesting?
- Remove the existing notation `[n]` completely.
- Remove the `(priority := high)` added to the `[n]` notation declaration in this PR.
- Change the proposed notation `[m]ₙ`, added in this PR.
- Get rid of both notations `[n]` and `[m]ₙ`.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: I would suggest changing the existing notation `[_]` (as it is barely usable because of the conflict with the list notation) and change `[_]ₙ` accordingly.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: It could be a good idea to seek advice/suggestions about alternative notations on Zulip?

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: Agreed. Thanks all for the suggestions. I will get a Zulip thread going and see if others are willing to weigh in.

Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:40]: The notation for objects of the simplex category has been changed in #21565. I will update this PR to reflect the same change for objects of the truncated simplex category.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 1 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean]: #21565 changed the notation for objects of the simplex category, and I have done the same for the truncated simplex category notation in this PR. The new syntax allows removing `(priority := high)`.

I still think it would be a good idea to make this notation `scoped[Simplicial]` after #18230 lands.

**Comment by joelriou** [comment]
This seems good to me, but some expert in meta code should also have a look.

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean [hunk 4]
```diff
@@ -167,6 +176,23 @@ noncomputable def inclusion.fullyFaithful (n : ℕ) :
 theorem Hom.ext {n} {a b : Truncated n} (f g : a ⟶ b) :
     f.toOrderHom = g.toOrderHom → f = g := SimplexCategory.Hom.ext _ _
 
+/-- Some quick attempts to prove that `⦋m⦌` is `n`-truncated (`⦋m⦌.len ≤ n`). -/
+macro "trunc" : tactic =>
```
Comment (eric-wieser) [inline Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:180]: This should be `scoped` or even `local`, since `trunc` is too common a name to be reserved globally for simplex categories

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean [hunk 5]
```diff
@@ -167,6 +176,19 @@ noncomputable def inclusion.fullyFaithful (n : ℕ) :
 theorem Hom.ext {n} {a b : Truncated n} (f g : a ⟶ b) :
     f.toOrderHom = g.toOrderHom → f = g := SimplexCategory.Hom.ext _ _
 
+open Mathlib.Tactic (subscriptTerm) in
+/-- For `m ≤ n`, `⦋m⦌ₙ` is the `m`-dimensional simplex in `Truncated n`. The
+proof `p : m ≤ n` can also be provided using the syntax `⦋m, p⦌ₙ`. -/
+scoped syntax:max (name := mkNotation)
+  "⦋" term ("," term)? "⦌" noWs subscriptTerm : term
```
Comment (digama0) [inline Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:183]:
```suggestion
  "⦋" term "⦌" noWs subscriptTerm (noWs "'" term)? : term
```
This mirrors the notation of getElem optional proofs.

**Review by digama0 — APPROVED** [review]
The meta code looks fine to me.

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean (hunk 5 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:183]: I like the potential for mirroring `getElem` here, but I wasn't able to get this exact syntax working. From [these](https://github.com/leanprover/lean4/blob/4877e8403133097a5c199a8d84ad52d0fcd1c200/tests/lean/run/atomValidation.lean#L49-L63) tests, it seems this is an intentional restriction.

Alternatives could include using a double single quote, `"''"`, using a similar unicode character (see [here](https://github.com/leanprover/lean4/blob/4877e8403133097a5c199a8d84ad52d0fcd1c200/tests/lean/run/atomValidation.lean#L116-L120)), or moving the single quote to the other side of the subscript, `"⦌'"`.

**Review by YaelDillies — APPROVED** [review]
LGTM modulo Mario's comment

File: Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean (hunk 5 above)
Comment (gio256) [reply Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:183]: I am not sure what the best next step is here. I am happy to change the syntax, but I haven't figured out a way to get the suggested syntax working and none of the alternatives jump out at me as an obvious fit.

Any suggestions, @digama0 @joelriou?

Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplexCategory/Defs.lean:183]: I think the best option would be to just avoid using this form altogether and ensure the proof is always implicit. But if we need a syntax for technical reasons, I guess we can just keep it as is. (Other alternatives include more heavyweight syntax like `[n]₂ (h := by decide)`.)

**Comment by joelriou** [comment]
Thanks!

bors merge
